US04751297
A. (3S,4R)-2-[3-(R)-(1-Tetrahydropyranyloxyethyl)-4-(methylthiomethylthio[thiocarbonyl]thio)-2-azetidinone
To a stirred solution of 2.67 g (10 mmole) 3-(R)-(1-hydroxyethyl)-4-(methylthiomethylthio[thiocarbonyl]thio)-2-azetidinone in 30 ml methylene chloride at room temperature is added 0.8 g pyridinium p-toluenesulfonate and 1.26 g (15 mmole) dihydropyran and the mixture is stirred at 30° C. for five hours. The solvent is evaporated in vacuo, the residual oil is dissolved in ethyl ether, washed with brine, water, dried (Na2SO4) and concentrated in vacuo to afford the title compound. B. A solution of 3.51 g (10 mmole) of the product of Part A, above, and 4.0 g (20 mmole) t-butoxycarbonyloxymethyl glyoxylate in 150 ml benzene is heated at reflux overnight while removing water in a Dean-Stark trap. The resulting product is isolated and purified as described in Example 4 to obtain the desired 2-hydroxyacetate.

reactant | 3-(R)-(1-hydroxyethyl)-4-(methylthiomethylthio[thiocarbonyl]thio)-2-azetidinone | 10 mmole, 2.67 g | OC(C)[C@@H]1C(NC1SC(=S)SCSC)=O | C8H13NO2S4
reactant | pyridinium p-toluenesulfonate | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | dihydropyran | 15 mmole, 1.26 g | O1CCCC=C1 | C5H8O
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-(R)-(1-Tetrahydropyranyloxyethyl)-4-(methylthiomethylthio[thiocarbonyl]thio)-2-azetidinone | O1C(CCCC1)OC(C)[C@@H]1C(NC1SC(=S)SCSC)=O | C13H21NO3S4
